US06515011B2
DBU (0.483 mL, 3.23 mmol) was added to a stirred solution of N-{1-[4-chloro-2-(hydroxymethyl)phenyl]-2,2,2-trifluoroethyl}-N-(4-methoxyphenyl)amine (0.46 g of a 1:1.7 mixture with 3-chlorobenzyl alcohol) and DPPA (0.696 mL, 3.23 mmol) in THF (4 mL) at 0° C. The mixture was warmed to ambient temperature and after 3 h was partitioned between ether and water. The organic layer was washed with 1 M sodium hydroxide solution and brine, dried (Na2SO4) and evaporated to an oil which was purified by flash column chromatography on silica (eluting with 5% methylene chloride, 0-15% ethyl acetate/hexanes) to give N-{1-[2-(azidomethyl)-4-chlorophenyl]-2,2,2-trifluoroethyl}-N-(4-methoxyphenyl)amine (0.199 g) as an oil: 1H NMR (CDCl3, 400 MHz) δ 3.72 (s, 3H), 3.97 (d, J=7.3 Hz, 1H), 4.37 (d, J=14.1 Hz, 1H), 4.48 (d, J=14.1 Hz, 1H), 5.20 (pentet, J=7.1 Hz, 1H), 6.63 (d, J=9.0 Hz, 2H), 6.75 (d, J=9.0 Hz, 2H), 7.37 (m, 2H), 7.55 (d, J=8.2 Hz, 1H).

reactant | DBU | 3.23 mmol, 0.483 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | N-{1-[4-chloro-2-(hydroxymethyl)phenyl]-2,2,2-trifluoroethyl}-N-(4-methoxyphenyl)amine | ClC1=CC(=C(C=C1)C(C(F)(F)F)NC1=CC=C(C=C1)OC)CO | C16H15ClF3NO2
reactant | 3-chlorobenzyl alcohol | ClC=1C=C(CO)C=CC1 | C7H7ClO
reactant | DPPA | 3.23 mmol, 0.696 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | N-{1-[2-(azidomethyl)-4-chlorophenyl]-2,2,2-trifluoroethyl}-N-(4-methoxyphenyl)amine | 0.199 g | N(=[N+]=[N-])CC1=C(C=CC(=C1)Cl)C(C(F)(F)F)NC1=CC=C(C=C1)OC | C16H14ClF3N4O
